US08530468B2
Acetyl chloride (13 mg, 0.16 mmol) was added to a solution of 5-(8-aminoisoquinolin-3-ylamino)pyrazine-2-carbonitrile (36 mg, 0.14 mmol) and diisopropylethylamine (39 mg, 0.30 mmol) in DCE (1.5 mL). The reaction mixture stirred at room temperature for 16 hours and another portion of acetyl chloride (6.5 mg, 0.08 mmol) was added. Stirring was continued for a further 24 hours. The reaction mixture was washed once with water and the organic phase was dried (Na2SO4) and concentrated to dryness. Preparative HPLC gave N-(3-(5-cyanopyrazin-2-ylamino)isoquinolin-8-yl)acetamide (13.4 mg, 0.044 mmol, 32%). 1H NMR (d6-DMSO, 400 MHz) δ 11.05 (br s, 1H), 10.20 (s, 1H), 9.36 (s, 1H), 8.82 (d, 1H, J=1.2 Hz), 8.72 (d, 1H, J=1.2 Hz), 8.48 (s, 1H), 7.65-7.75 (m, 3H), 2.22 (s, 3H). LC-MS (2) Rt=1.96 min; m/z (ESI+) 305 (M+H).

reactant | Acetyl chloride | 0.16 mmol, 13 mg | C(C)(=O)Cl | C2H3ClO
reactant | 5-(8-aminoisoquinolin-3-ylamino)pyrazine-2-carbonitrile | 0.14 mmol, 36 mg | NC=1C=CC=C2C=C(N=CC12)NC=1N=CC(=NC1)C#N | C14H10N6
reactant | diisopropylethylamine | 0.30 mmol, 39 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | acetyl chloride | 0.08 mmol, 6.5 mg | C(C)(=O)Cl | C2H3ClO
solvent | DCE | 1.5 mL | ClCCCl | C2H4Cl2
product | N-(3-(5-cyanopyrazin-2-ylamino)isoquinolin-8-yl)acetamide | 0.044 mmol, 13.4 mg, 32% | C(#N)C=1N=CC(=NC1)NC=1N=CC2=C(C=CC=C2C1)NC(C)=O | C16H12N6O
